US08703758B2
G) 4-[({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)acetyl]morpholine
A suspension of trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexanol (611 mg), 4-(chloroacetyl)morpholine (1.05 g) and tert-butoxy potassium (718 mg) in THF (10 mL) was stirred at room temperature overnight and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (882 mg).

reactant | trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexanol | 611 mg | C1(CC1)COC1=CC2=C(C=C(O2)[C@@H]2CC[C@H](CC2)O)C=C1 | C18H22O3
reactant | 4-(chloroacetyl)morpholine | 1.05 g | ClCC(=O)N1CCOCC1 | C6H10ClNO2
reactant | tert-butoxy potassium | 718 mg | C(C)(C)(C)O[K]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)acetyl]morpholine | 882 mg | C1(CC1)COC1=CC2=C(C=C(O2)[C@@H]2CC[C@H](CC2)OCC(=O)N2CCOCC2)C=C1 | C24H31NO5
